US06218397B1
4. 5-amino-1-(2,4,6-trichlorophenyl)-1H-pyrazole-4-carbonitrile
The title compound was prepared as an orange solid, m.p. 208.5-209.5° C. by the procedure of Preparation A starting with ethoxymethylenemalononitrile and 2,4,6-trichlorophenylhydrazine.

reactant | ethoxymethylenemalononitrile | C(C)OC=C(C#N)C#N | C6H6N2O
reactant | 2,4,6-trichlorophenylhydrazine | ClC1=C(C(=CC(=C1)Cl)Cl)NN | C6H5Cl3N2
product | 5-amino-1-(2,4,6-trichlorophenyl)-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1C1=C(C=C(C=C1Cl)Cl)Cl)C#N | C10H5Cl3N4
